US07691850B2
Preparation of N-[((3S,4S)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-4-hydroxy-3-pyrrolidinyl)methyl]-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxamide
To a solution of (3S,4S)-4-(aminomethyl)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinol (230 mg, 0.719 mmol) in DCM-DMF (6:1, 7 mL) at 25° C. were added 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxylic acid (140 mg, 0.719 mmol), EDC (134 mg, 0.836 mmol) and HOBT (117 mg, 0.863 mmol). After 12 h, the solution was concentrated and purified by column chromatography (silica, 2-3% MeOH in DCM (1% NH OH)) yielding the title compound (130 mg, 36%) as a yellow foam: LC/MS (ES) m/e 497 (M+H); H NMR (CD OD, 400 Hz) δ 8.4 (s, 1H), 7.95 (d, J=9.1 Hz, 1H), 7.53 (d, J=8.2 Hz, 1H), 7.19 (d, J=8.2 Hz, 1H), 6.93 (d, J=9.1 Hz, 1H), 4.63 (AB quart., 2H), 4.20-4.24 (m, 1H), 3.9 (s, 3H), 3.55-3.59 (m, 1H), 3.40-3.43 (m, 1H), 3.23-3.28 (m, 2H), 3.16-3.19 (m, 1H), 2.91-2.94 (m, 1H), 2.7-2.82 (m, 2H), 2.49-2.52 (m, 2H), 2.37-2.42 (m, 1H).

reactant | (3S,4S)-4-(aminomethyl)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinol | 0.719 mmol, 230 mg | NC[C@@H]1[C@@H](CN(C1)CCC1=C(C=NC2=CC=C(N=C12)OC)F)O | C16H21FN4O2
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxylic acid | 0.719 mmol, 140 mg | O=C1NC2=C(OC1)C=CC(=N2)C(=O)O | C8H6N2O4
reactant | EDC | 0.836 mmol, 134 mg
reactant | HOBT | 0.863 mmol, 117 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM DMF | 7 mL | C(Cl)Cl.CN(C)C=O
product | N-[((3S,4S)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-4-hydroxy-3-pyrrolidinyl)methyl]-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxamide | 130 mg, 36% | FC=1C=NC2=CC=C(N=C2C1CCN1C[C@@H]([C@@H](C1)O)CNC(=O)C=1C=CC=2OCC(NC2N1)=O)OC | C24H25FN6O5
